US06069256
A mixture of 2-nitromethylenethiazolidine (12.6 g) and water (30.0 ml) was stirred and heated at 40° C. under Argon. Methylamine (20.0 g of a 40% w/w aqueous solution) was added slowly over 30 minutes to the reaction mixture at 40° C. The mixture was cooled at ambient temperature and further methylamine (23.6 g of 40% w/w aqueous solution) was added over 2.5 hours and a solution of 4-chloromethyl-2-dimethylaminomethylthiazole dihydrochloride (25.0 g) in water (30 ml) was added over 5.5 hours with the addition of the thiazole starting simultaneously with the addition of the methylamine. The reaction mixture was left to stir for a further 15 minutes and then was concentrated under reduced pressure. The solid obtained was dissolved in a mixture of methyl ethyl ketone (200 ml), aqueous potassium carbonate solution (43 ml, 10% w/w). The mixture was warmed slightly to obtain a solution. The mixture was separated and the aqueous layer was washed with methyl ethyl ketone (2×130 ml and then 1×100 ml). The combined organic layers were evaporated under reduced pressure to yield crude nizatidine (approximately 25.2 g), which was shown to be 89.4% pure by HPLC. The crude solid was dissolved in dichloromethane (300 ml). The solution was washed with water (3×75 ml). The combined aqueous layer and the washings were back extracted with dichloromethane and the combined organic layers were dried and concentrated under reduced pressure to give nizatidine (21.1 g, 74.3% yield). The solid was dissolved in ethanol (45 ml) by warming on a steam bath. The solution was removed from the steam bath treated with activated charcoal (2.3 g) and the mixture was boiled for a further 8 minutes. The mixture was hot filtered. The filtrate was cooled and filtered to give nizatidine (13.8 g, 48% yield) which was shown to be 99.8% pure by HPLC.

reactant | 2-nitromethylenethiazolidine | 12.6 g | [N+](=O)([O-])C=C1SCCN1 | C4H6N2O2S
reactant | Methylamine | CN | CH5N
reactant | methylamine | 23.6 g | CN | CH5N
reactant | 4-chloromethyl-2-dimethylaminomethylthiazole dihydrochloride | 25.0 g | Cl.Cl.ClCC=1N=C(SC1)CN(C)C
reactant | thiazole | S1C=NC=C1 | C3H3NS
solvent | water | 30 ml | O | H2O
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
solvent | potassium carbonate | 43 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | water | 30.0 ml | O | H2O
product | nizatidine | 21.1 g, 74.3% yield | CN/C(=C\[N+](=O)[O-])/NCCSCC1=CSC(=N1)CN(C)C | C12H21N5O2S2
